US07795257B2
F. 1-{4-[2-Cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-piperidine-4-carboxylic Acid Ethyl Ester
Title compound E, 4-[2-Cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl chloride (120 mg, 0.2499 mmol) was dissolved in dichloromethane. To this was added a solution of piperidine-4-carboxylic acid ethyl ester (38 μL, 0.2499 mmol) and diisopropylethylamine (87 μL, 0.4998 mmol) in dichloromethane. The reaction was stirred at room temperature for 1 hour, then concentrated. The residue was partitioned between 1N hydrochloric acid and ethyl acetate. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated to afford a yellow oil. The crude was then purified via column chromatography 10-90% ethyl acetate in hexanes to afford the desired product as a yellow foam (107 mg, 71%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.20 (t, J=7.07 Hz, 3 H) 1.10-1.22 (m, 2 H) 1.50 (d, J=2.78 Hz, 2 H) 1.49 (br. s., 1 H) 1.63 (dd, J=14.91, 7.83 Hz, 2 H) 1.62 (br. s., 1 H) 1.81 (dd, J=13.64, 3.79 Hz, 3 H) 1.95 (t, J=7.07 Hz, 2 H) 1.91 (d, J=7.83 Hz, 1 H) 2.21-2.31 (m, 2 H) 2.53 (td, J=11.43, 2.91 Hz, 2 H) 3.61-3.71 (m, 3 H) 4.00 (s, 3 H) 4.09 (q, J=7.07 Hz, 2 H) 6.80 (d, J=8.84 Hz, 1 H) 7.52 (d, J=8.59 Hz, 2 H) 7.74-7.84 (m, 3 H) LC/MS 601.3 (M+1) 599.4 (M−1)

reactant | 4-[2-Cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl chloride | 0.2499 mmol, 120 mg | C1(CCCC1)CC(C(NC=1SC2=NC(=CC=C2N1)OC)=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C21H22ClN3O4S2
reactant | piperidine-4-carboxylic acid ethyl ester | 0.2499 mmol, 38 μL | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | diisopropylethylamine | 0.4998 mmol, 87 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-{4-[2-Cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-piperidine-4-carboxylic Acid Ethyl Ester | 107 mg, 71% | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(CC1CCCC1)C(NC=1SC2=NC(=CC=C2N1)OC)=O | C29H36N4O6S2
